US08664220B2
Step 4: 1-{4′-[4-(3-Benzyl-2-oxo-oxazolidin-5-yl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester
1-{4′-[4-(2-Benzylamino-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (0.190 g, 0.38 mmol) was dissolved in toluene (4 mL) then placed under N2 atmosphere at 0° C. Triethylamine (0.159 mL, 1.14 mmol) and phosgene (1.9M in toluene, 0.201 mL, 0.38 mmol) were added and the reaction stirred at 0° C. After two hours an additional portion of each of triethylamine (0.160 mL) and phosgene (0.200 mL) were added and the reaction stirred an additional 20 minutes. The reaction was submitted to standard workup procedures and silica gel chromatography (0-40% EtOAc in hexanes) to yield the title compound.

reactant | 1-{4′-[4-(2-Benzylamino-1-hydroxy-ethyl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 0.38 mmol, 0.190 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C(CNCC1=CC=CC=C1)O | C31H32N2O4
reactant | Triethylamine | 1.14 mmol, 0.159 mL | C(C)N(CC)CC | C6H15N
reactant | phosgene | 0.38 mmol, 1.9M, 0.201 mL | C(=O)(Cl)Cl | CCl2O
reactant | triethylamine | 0.160 mL | C(C)N(CC)CC | C6H15N
reactant | phosgene | 0.200 mL | C(=O)(Cl)Cl | CCl2O
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
product | 1-{4′-[4-(3-Benzyl-2-oxo-oxazolidin-5-yl)-3-methyl-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)C1CN(C(O1)=O)CC1=CC=CC=C1 | C32H30N2O5
